US07449486B2
Step B: Preparation of tert-butyl 3-((S)-5-(3-fluorophenyl)-3-((S)-2-hydroxypropanoyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate:
To a cooled (0° C.) solution of tert-butyl 3-(3-((S)-2-(tert-butyldiphenylsilyloxy)propanoyl)-5-(3-fluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate (180 mg, 0.25 mmol) in THF (2.5 mL) was added TBAF (0.40 mL of 1M solution in THF). After stirring at room temperature for 2 hours, the volume was reduced in vacuo and the mixture was diluted with half-saturated NaHCO3 (30 mL). The mixture was extracted with ethyl acetate (3×20 mL) and the combined organics were washed with brine (30 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was chromatographed (30% ethyl acetate in hexanes) to provide the product (95 mg, 79%) as a viscous, yellow syrup.

reactant | tert-butyl 3-(3-((S)-2-(tert-butyldiphenylsilyloxy)propanoyl)-5-(3-fluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate | 0.25 mmol, 180 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H](C(=O)N1C(SC(=N1)C1=CC(=CC=C1)F)(C1=CC=CC=C1)CCCNC(OC(C)(C)C)=O)C | C41H48FN3O4SSi
reactant | TBAF | 1M, 0.40 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
product | tert-butyl 3-((S)-5-(3-fluorophenyl)-3-((S)-2-hydroxypropanoyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate | 95 mg, 79% | FC=1C=C(C=CC1)C1=NN([C@@](S1)(C1=CC=CC=C1)CCCNC(OC(C)(C)C)=O)C([C@H](C)O)=O | C25H30FN3O4S
